US09035051B1
tert-Butyl 4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethynyl]piperidine-1-carboxylate
Dissolve 6-chloro-5-iodo-2-methyl-pyrimidin-4-amine (20 g, 74.22 mmol), 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (18.64 g, 89.06 mmol), and diisopropylamine (10.44 mL, 74.22 mmol) in THF (200 mL) in a 3-neck flask. Alternately evacuate and charge the flask with nitrogen 3 times. Add bis(triphenylphosphine)palladium(II) chloride (2.63 g, 3.71 mmol) and copper(I) iodide (0.713 g, 3.71 mmol) to the solution. Heat the mixture to between 50 to 55° C. for 16 h. Cool the mixture to RT and add more bis(triphenylphosphine)palladium(II) chloride (1.31 g, 1.86 mmol), copper(I) iodide (0.356 g, 1.86 mmol) and 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (1.55 g, 7.42 mmol). Heat the mixture to 60° C. for 3.5 h. Cool the mixture to RT and concentrate under reduced pressure. Dilute the material with DCM (300 mL) and wash with saturated aqueous ammonium chloride solution (100 mL), water (100 mL), and saturated aqueous sodium chloride (100 mL). Dry the solution over MgSO4, filter, and concentrate under reduced pressure. Purify the residue using silica gel chromatography (800 g silica gel column) eluting with 20% to 100% EtOAc in hexanes. Concentrate the purified fractions to give the title compound as a pale orange powder (22.6 g, 86%). LC-ES/MS m/z (35Cl/37Cl) 351.2/353.1 (M+1).

reactant | 6-chloro-5-iodo-2-methyl-pyrimidin-4-amine | 74.22 mmol, 20 g | ClC1=C(C(=NC(=N1)C)N)I | C5H5ClIN3
reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 89.06 mmol, 18.64 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
reactant | diisopropylamine | 74.22 mmol, 10.44 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 7.42 mmol, 1.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 3.71 mmol, 2.63 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 3.71 mmol, 0.713 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.86 mmol, 1.31 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.86 mmol, 0.356 g | [Cu]I
product | tert-Butyl 4-[2-(4-amino-6-chloro-2-methyl-pyrimidin-5-yl)ethynyl]piperidine-1-carboxylate | 22.6 g, 86% | NC1=NC(=NC(=C1C#CC1CCN(CC1)C(=O)OC(C)(C)C)Cl)C | C17H23ClN4O2
